US03975383
3-(Triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one (1.03g) and t-butyl glyoxalate (3.3 g) were refluxed in dry benzene (50ml) with provision for the removal of water. After one hour the benzene solution was washed 5 times with water, dried and evaporated. Chromatography of the residue on silica -H gave 1-(1-hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2 -one as an amorphous white solid (0.978 g)

reactant | 3-(Triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one | 1.03g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NC1SCC#CC)=O | C26H24N2OS
reactant | t-butyl glyoxalate | 3.3 g | C(C=O)(=O)OC(C)(C)C | C6H10O3
reactant | water | O | H2O
solvent | benzene | 50ml | C1=CC=CC=C1 | C6H6
product | 1-(1-hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2 -one | 0.978 g | OC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H34N2O4S
